US09315495B2
According to the method of Molander, et. al. (J. Org. Chem. 2009, 74, 3636), a suspension of 5-bromo-2-formylfuran (695 mg, 3.97 mmol), hexylboronic acid (775 mg, 5.96 mmol), potassium carbonate (1.65 g, 11.91 mmol), palladium(II) acetate (18 mg, 0.079 mmol) and RuPhos (74 mg, 0.16 mmol) in 9:1 toluene/water (22 mL) in a pressure-relief vial under argon was heated in a 120° C. bath for 18 h. After cooling to room temperature, the tion mixture was diluted with water (25 mL) and organics extracted with ether (3×50 mL), dried with magnesium sulfate, filtered, and concentrated. The crude product was purified by chromatography on silica gel (10% ethyl acetate in hexanes) to give 5-hexyl-2-formylfuran (665 mg, 93%) as a clear oil. Used without further characterization.

reactant | 5-bromo-2-formylfuran | 3.97 mmol, 695 mg | BrC1=CC=C(O1)C=O | C5H3BrO2
reactant | hexylboronic acid | 5.96 mmol, 775 mg | C(CCCCC)B(O)O | C6H15BO2
reactant | potassium carbonate | 11.91 mmol, 1.65 g | C([O-])([O-])=O.[K+].[K+]
reactant | toluene water | 22 mL | C1(=CC=CC=C1)C.O
solvent | water | 25 mL | O | H2O
catalyst | palladium(II) acetate | 0.079 mmol, 18 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | RuPhos | 0.16 mmol, 74 mg | CC(C)OC1=C(C(=CC=C1)OC(C)C)C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4 | C30H43O2P
product | 5-hexyl-2-formylfuran | 665 mg, 93% | C(CCCCC)C1=CC=C(O1)C=O | C11H16O2
